US06110937
The 3-(2,6-dimethylphenoxymethyl)-1-(2-dimethylaminoethyl)piperidine solution was treated with a 1M solution of hydrochloric acid in ether (17.2 mL). The resulting precipitate was isolated by filtration, then dried under vacuum to give 3-(2,6-dimethylphenoxymethyl)-1-(2-dimethylaminoethyl)-piperidine hydrochloride (4.0 g, 71%), m.p. 263.2-263.5° C.

reactant | 3-(2,6-dimethylphenoxymethyl)-1-(2-dimethylaminoethyl)piperidine | CC1=C(OCC2CN(CCC2)CCN(C)C)C(=CC=C1)C | C18H30N2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 17.2 mL | CCOCC | C4H10O
product | 3-(2,6-dimethylphenoxymethyl)-1-(2-dimethylaminoethyl)-piperidine hydrochloride | 4.0 g, 71% | Cl.CC1=C(OCC2CN(CCC2)CCN(C)C)C(=CC=C1)C | InChI=1S/C18H30N2O.ClH/c1-15-7-5-8-16(2)18(15)21-14-17-9-6-10-20(13-17)12-11-19(3)4;/h5,7-8,17H,6,9-14H2,1-4H3;1H
